US06337351B1
(4E)-5-(4-Methyl-3-nitrophenyl)-4-penten-2-ol
A mixture of 4-bromo-2-nitrotoluene (2.16 g, 10.0 mmol), 4-penten-2-ol (904 mg, 10.5 mmol), palladium(II) acetate (22 mg, 0. 10 mmol) and tri-o-tolylphosphine (122 mg, 0.400 mmol) was diluted with triethylamine (3 mL) and acetonitrile (6 mL) and refluxed under nitrogen for 28 h. The mixture was poured into water (30 mL) and extracted with chloroform (2×30 mL). The chloroform extracts were dried (Na2SO4) and evaporated, and the residue was column chromatographed on 100 g of Merck silica gel 60 (70-230 mesh) with 20-40% (v/v) ethyl acetate, 20% (v/v) chloroform in hexane. This gave 1.71 g (77.4% yield) of yellow oil.

reactant | 4-bromo-2-nitrotoluene | 10.0 mmol, 2.16 g | BrC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6BrNO2
reactant | 4-penten-2-ol | 10.5 mmol, 904 mg | CC(CC=C)O | C5H10O
reactant | water | 30 mL | O | H2O
solvent | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 10 mmol, 22 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri-o-tolylphosphine | 0.400 mmol, 122 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
product | (4E)-5-(4-Methyl-3-nitrophenyl)-4-penten-2-ol | 1.71 g, 77.4% yield | CC1=C(C=C(C=C1)/C=C/CC(C)O)[N+](=O)[O-] | C12H15NO3
